US07683176B2
A 25 mL scintillation vial was charged with 4-tert-butyl-N-(5-chloro-2-hydrazinocarbonyl-pyridin-3-yl)-benzenesulfonamide (191 mg, 0.50 mmol), trimethyl orthoformate (0.072 mL, 0.65 mmol), AcOH (0.60 mL), and dioxane (1.5 mL). The vial was sealed, heated to 110° C., and stirred overnight. The following day, the intermediate methyl carbazate was observed at m/z 425 (via LCMS). 1-Boc-3-aminopyrrolidine (187 mg, 1.0 mmol) was subsequently added and the reaction continued at 110° C. until LCMS analysis indicated consumption of the oxadiazole intermediate. The volatiles were subsequently evacuated in vacuo and the residue was purified via reverse-phase HPLC to provide 3-{3-[3-(4-tert-butyl-benzenesulfonylamino)-5-chloro-pyridin-2-yl]-[1,2,4]triazol-4-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester as a white solid: MS (ES) M+H expected 561.1, found 561.1.

reactant | 4-tert-butyl-N-(5-chloro-2-hydrazinocarbonyl-pyridin-3-yl)-benzenesulfonamide | 0.50 mmol, 191 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(=O)NN | C16H19ClN4O3S
reactant | trimethyl orthoformate | 0.65 mmol, 0.072 mL | C(OC)(OC)OC | C4H10O3
reactant | methyl carbazate | C(NN)(=O)OC | C2H6N2O2
reactant | 1-Boc-3-aminopyrrolidine | 1.0 mmol, 187 mg | C(=O)(OC(C)(C)C)N1CC(CC1)N | C9H18N2O2
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
solvent | AcOH | 0.60 mL | CC(=O)O | C2H4O2
product | 3-{3-[3-(4-tert-butyl-benzenesulfonylamino)-5-chloro-pyridin-2-yl]-[1,2,4]triazol-4-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)N1C(=NN=C1)C1=NC=C(C=C1NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)Cl | C26H33ClN6O4S
